US06921763B2
A suspension of 1-(3-bromopropyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.500 g, 1.31 mmol) in dimethylformamide (10 mL) was treated with morpholine (0.137 g, 1.572 mmol) and triethylamine (0.133 g, 1.31 mmol). The reaction mixture was stirred at 70° C. for 66.25 h. Solvent was removed under reduced pressure. Dichloromethane (15 mL) and 1 N hydrochloric acid (20 mL) were added. The layers were partitioned and the aqueous layer was washed with dichloromethane (100 mL). The aqueous layer was neutralized to pH 14 and then extracted with dichloromethane (250 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel using a step-wise gradient of 10% methanol in dichloromethane to 50% methanol in dichloromethane over 58 minutes on a 35 g ISCO column. The column afforded 0.244 g (48%) of pure 3-iodo-1-(3-morpholinopropyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine. 1H NMR (DMSO-d6, 400 MHz) δ 8.194 (s, 1H), 4.327-4.293 (t, 2H), 3.485-3.364 (m, 4H), 2.253-2.238 (m, 6H), 1.963-1.895 (m, 2H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium acetate in water to 95% acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 0.71 min (100%), MH+ 389.0.

reactant | 1-(3-bromopropyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.31 mmol, 0.500 g | BrCCCN1N=C(C=2C1=NC=NC2N)I | C8H9BrIN5
reactant | morpholine | 1.572 mmol, 0.137 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 1.31 mmol, 0.133 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-iodo-1-(3-morpholinopropyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.244 g, 48% | IC1=NN(C2=NC=NC(=C21)N)CCCN2CCOCC2 | C12H17IN6O
